US08809012B2
Step 11: Synthesis of methyl 2-((4-propylbenzyl)amino)acetate
Under argon condition, glycine methyl ether (448 mg, 3.57 mmol) was dissolved in 5 mL of dry DMF and then N,N-diisopropylethylamine (DIPEA; 777 μL, 4.46 mmol) and 1-(iodomethyl)-4-propylbenzene (232 mg, 0.892 mmol) were added. The reaction mixture was then stirred for one day at room temperature. Upon completion of the reaction, the reaction was terminated by adding 10 mL of water and the reaction mixture was extracted with diethyl ether (10 mL×4). The organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out and the resulting solution was concentrated by distillation under reduced pressure and purified by column chromatography to obtain 152 mg (0.687 mmol, 77%) of the desired compound.

reactant | N,N-diisopropylethylamine | 4.46 mmol, 777 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(iodomethyl)-4-propylbenzene | 0.892 mmol, 232 mg | ICC1=CC=C(C=C1)CCC | C10H13I
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl 2-((4-propylbenzyl)amino)acetate | 0.687 mmol, 152 mg, 77% | C(CC)C1=CC=C(CNCC(=O)OC)C=C1 | C13H19NO2
